US03937824
Preparation of 1-Chloro-2-(N-methyl-carbamoyloxy)-2-methoxyiminoethane
N-Methoxychloroacetamide (3.5 grams), benzene (60 ml) and dibutyltin dilaurate (1 drop) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. Methyl isocyanate (2.0 grams) dissolved in benzene (15 ml) was added dropwise to the reaction mixture at room temperature and with stirring. After the addition was completed the reaction mixture was heated at reflux, with stirring for a period of about 2 hours. After this time the reaction mixture was distilled to remove benzene and unreacted isocyanate leaving an oily residue. The residue was subjected to vacuum (0.1 mm Hg) whereupon it solidified. The solid was recrystallized from a carbon tetrachloride-hexane mixture to yield a white crystalline solid. The solid was washed with hexane and dried to yield the desired product 1-chloro-2-(N-methylcarbamoyloxy)-2-methoxyiminoethane having a melting point of 80°-82°C.

reactant | N-Methoxychloroacetamide | 3.5 grams | CONC(CCl)=O | C3H6ClNO2
reactant | Methyl isocyanate | 2.0 grams | CN=C=O | C2H3NO
catalyst | dibutyltin dilaurate | 1 drop | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 1-chloro-2-(N-methylcarbamoyloxy)-2-methoxyiminoethane | ClCC(=NOC)OC(NC)=O | C5H9ClN2O3
